US05000775
Ethyl 2[(diphenylmethyl)amino]-4-(trifluoromethyl)-5thiazolecarboxylate
A reaction vessel was charged with 120 ml of toluene and 11.0 g (42.4 mmol) of ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate (prepared as described in U.S. Pat. No. 4,199,506). Then, 15.5 g (86 mmol) of aminodiphenylmethane was added in one portion. The resulting yellowish-orange solution was refluxed under nitrogen for 9 days. Then, solvent was removed from the mixture under reduced pressure to yield a yellowish-orange solid material, which was flash chromatographed (~38 ml/min) on silica gel using 10% ethyl acetate in hexane solvent. There was obtained 13.2 g of a thick yellow oil which solidified upon standing to a yellow solid product (m.p.=92°-95° C.) identified in Table I.

reactant | ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | 42.4 mmol, 11.0 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO2S
reactant | aminodiphenylmethane | 86 mmol, 15.5 g | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2[(diphenylmethyl)amino]-4-(trifluoromethyl)-5thiazolecarboxylate | 13.2 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C20H17F3N2O2S
